US07268145B2
2-((5,6-dimethylbenzimidazole-2-ylthio)methyl)benzoic acid t-butyl ester (30 mg, 0.082 mmol) was dissolved in 3 ml of chloroform, to which triethylamine (17 μl, 0.123 mmol) and benzoyl chloride (14 μl, 0.123 mmol) were sequentially added and the mixture was stirred at room temperature for 2 hours. After the reaction was complete, water was added, followed by extraction with ethyl acetate. After drying the ethyl acetate phase with anhydrous sodium sulfate, it was concentrated, and 2-((5,6-dimethyl-1-(phenylcarbonyl)benzimidazole-2-ylthio)methyl)benzoic acid t-butyl ester was obtained (38 mg, yield quantitative).

reactant | 2-((5,6-dimethylbenzimidazole-2-ylthio)methyl)benzoic acid t-butyl ester | 0.082 mmol, 30 mg | C(C)(C)(C)OC(C1=C(C=CC=C1)CSC=1NC2=C(N1)C=C(C(=C2)C)C)=O | C21H24N2O2S
reactant | triethylamine | 0.123 mmol, 17 μl | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 0.123 mmol, 14 μl | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | water | O | H2O
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-((5,6-dimethyl-1-(phenylcarbonyl)benzimidazole-2-ylthio)methyl)benzoic acid t-butyl ester | C(C)(C)(C)OC(C1=C(C=CC=C1)CSC1=NC2=C(N1C(=O)C1=CC=CC=C1)C=C(C(=C2)C)C)=O | C28H28N2O3S
